US06245478B1
N-hydroxysuccinimide (11.5 g, 0.1 mol) was dissolved in 100 g of sufficiently dried tetrahydrofuran. To the solution was added dropwise 7.1 g (0.1 mol) of ethyl isocyanate, and then a catalytic amount of triethylamine was added. After stirring at room temperature overnight, the reaction solution was decolored with active carbon and concentrated. The deposited crystal was filtered and washed with a small amount of ether to obtain 16.1 g of N-(ethylcarbamoyloxy)succinimide represented by the following formula, yield 86.6%.

reactant | N-hydroxysuccinimide | 0.1 mol, 11.5 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | ethyl isocyanate | 0.1 mol, 7.1 g | C(C)N=C=O | C3H5NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(ethylcarbamoyloxy)succinimide | 16.1 g, yield 86.6% | C(C)NC(=O)ON1C(CCC1=O)=O | C7H10N2O4
